US06320050B1
A solution of diisopropylamine (951 μL, 6.79 mmol) in dry tetrahydrofuran (6 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (2 mL) was cooled to −78° C. under nitrogen and then treated with a 2.5M solution of n-butyllithium in hexanes (2.5 mL, 6.79 mmol). The resulting reaction mixture was stirred at −78° C. for 30 min and then treated dropwise with a solution of (3,4-bis-methanesulfonyl-phenyl)-acetic acid methyl ester (1.89 g, 6.17 mmol) in dry tetrahydrofuran (12 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (4 mL). The resulting reaction mixture was allowed to stir at −78° C. for 1 h, at which time, a solution of iodomethylcyclopentane (1.56 g, 7.40 mmol) in a small amount of dry tetrahydrofuran was added dropwise. The reaction mixture was allowed to warm to 25° C. where it was stirred for 64 h. The reaction mixture was quenched with water (150 mL) and then concentrated in vacuo to remove tetrahydrofuran. The remaining residue was further diluted with water (100 mL) and then extracted with ethyl acetate (1×250 mL). The organic layer was washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 3/1 hexanes/ethyl acetate) afforded 2-(3,4-bis-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid methyl ester (1.61 g, 67%) as a yellow oil: EI-HRMS m/e calcd for C17H24O6S2 (M+) 388.1014, found 388.1014.

reactant | diisopropylamine | 6.79 mmol, 951 μL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | (3,4-bis-methanesulfonyl-phenyl)-acetic acid methyl ester | 6.17 mmol, 1.89 g | COC(CC1=CC(=C(C=C1)S(=O)(=O)C)S(=O)(=O)C)=O | C11H14O6S2
reactant | iodomethylcyclopentane | 7.40 mmol, 1.56 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 2 mL | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 4 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 2-(3,4-bis-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid methyl ester | 1.61 g, 67% | COC(C(CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)S(=O)(=O)C)=O | C17H24O6S2
